US09085555B2
1-{2-[(2S,4R)-2-(3-Chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidin-1-yl]-2-oxo-ethyl}-6-(2-methoxy-ethoxy)-1H-indole-3-carboxylic acid amide
A solution of 1-{2-[(2S,4R)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidin-1-yl]-2-oxo-ethyl}-6-hydroxy-1H-indole-3-carboxylic acid amide Example 578 (50 mg, 0.102 mmol) in DMSO (1 mL) was treated with KOH (26.0 mg, 0.458 mmol). The mixture was stirred at RT for 5 min, followed by addition of (2-bromoethyl)methyl ether (0.015 mL, 0.158 mmol) and stirring at RT for 2 h. The mixture was partitioned between water and CH2Cl2, and the aqueous phase was extracted twice with CH2Cl2. The combined organics were washed with brine (3×), dried (phase separator) and concentrated under reduced pressure. Purification by preparative HPLC (SunFire C18-ODB, 5 μm, 30×100 mm, eluent: 20-100% CH3CN/H2O/20 min, 100% CH3CN/2 min, CH3CN and H2O containing 0.1% TFA, flow: 40 mL/min) afforded after lyophilization of the purified fractions the title compound as a white solid. MS: 549 [M+H]+; tR (HPLC conditions c): 4.17 min.

reactant | 1-{2-[(2S,4R)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidin-1-yl]-2-oxo-ethyl}-6-hydroxy-1H-indole-3-carboxylic acid amide | ClC=1C(=C(CNC(=O)[C@H]2N(C[C@@H](C2)F)C(CN2C=C(C3=CC=C(C=C23)O)C(=O)N)=O)C=CC1)F | C23H21ClF2N4O4
reactant | KOH | 0.458 mmol, 26.0 mg | [OH-].[K+]
reactant | (2-bromoethyl)methyl ether | 0.158 mmol, 0.015 mL | BrCCOC | C3H7BrO
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
product | 1-{2-[(2S,4R)-2-(3-Chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidin-1-yl]-2-oxo-ethyl}-6-(2-methoxy-ethoxy)-1H-indole-3-carboxylic acid amide | ClC=1C(=C(CNC(=O)[C@H]2N(C[C@@H](C2)F)C(CN2C=C(C3=CC=C(C=C23)OCCOC)C(=O)N)=O)C=CC1)F | C26H27ClF2N4O5
